US05684195
A solution of (phenylsulfonyl)methane (10 mmol) in 5 mL of THF at 0° C. was treated with 4.5 mL (12.6 mmol) of methylmagnesium chloride (2.8M in THF), and the resulting solution was stirred at room temperature for 30 minutes. The solution was cooled to 0° C., treated with 15 mL (15 mmol) of tributylborane (1M in THF), stirred at room temperature for 30 minutes, and then stirred at reflux for 18 hours. To the resulting mixture at 0° C. was added 5.7 g of sodium acetate, 25 mL of water, and 3.95 g of hydroxylamine-O-sulfonic acid; the resulting mixture was stirred at room temperature for 3 hours. The organic layer was diluted with ethyl acetate, washed with saturated NaHCO3 and then brine, dried (MgSO4), filtered, and concentrated in vacuo. Purification by silica gel chromatography gave 1.06 g (67%) of phenylsulfonamide.

reactant | (phenylsulfonyl)methane | 10 mmol | C1(=CC=CC=C1)S(=O)(=O)C | C7H8O2S
reactant | methylmagnesium chloride | 12.6 mmol, 2.8M, 4.5 mL | C[Mg]Cl
reactant | tributylborane | 15 mmol, 1M, 15 mL | C(CCC)B(CCCC)CCCC | C12H27B
reactant | sodium acetate | 5.7 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine-O-sulfonic acid | 3.95 g | NOS(=O)(=O)O | H3NO4S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 25 mL | O | H2O
product | phenylsulfonamide | 1.06 g, 67% | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
